US09029560B2
Preparation of methyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate (C2)
To a 200 mL round bottomed flask, equipped with a stir bar, was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.799 g, 1.09 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (6.65 g, 26.2 mmol), and potassium acetate (4.28 g, 43.7 mmol) as solids. These solids were diluted with dioxane (100 mL). The flask was sealed and pumped and purged with nitrogen atmosphere. Then methyl 2-(4-bromophenyl)acetate (5.00 g, 21.8 mmol) was added. The reaction mixture was then warmed to an internal temperature of 70° C. for 6 hours. The reaction mixture was allowed to cool to room temperature, and was poured into a brine solution and the layers were partitioned. The aqueous phase was extracted with ethyl acetate (3×125 mL). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and concentrated. The resulting residue was purified via flash column chromatography using 0-30% ethyl acetate/hexanes as eluent to afford the title compound as a clear liquid (4.93 g, 70%): 1H NMR (400 MHz, DMSO-d6) δ 7.68-7.58 (m, 2H), 7.35-7.23 (m, 2H), 3.71 (s, 2H), 3.61 (s, 3H), 1.29 (s, 12H); 13C NMR (101 MHz, DMSO-d6) δ 171.29, 137.72, 134.45, 128.86, 83.56, 82.79, 51.68, 40.23, 24.62; EIMS m/z 276 ([M]+).

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 26.2 mmol, 6.65 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 43.7 mmol, 4.28 g | C(C)(=O)[O-].[K+]
reactant | methyl 2-(4-bromophenyl)acetate | 21.8 mmol, 5.00 g | BrC1=CC=C(C=C1)CC(=O)OC | C9H9BrO2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 1.09 mmol, 0.799 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate | 4.93 g, 70% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC(=O)OC)C | C15H21BO4
